US08227613B2
D) Trifluoro-methanesulfonic acid 4-methyl-3-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-6-(3-trifluoromethyl-phenyl)-pyridin-2-yl ester
0.34 ml=0.256 g (2.0 mmol) of N-ethyldiisopropylamine was added to a solution of 0.43 g (1.0 mmol) of [2-hydroxy-4-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone; 4-methyl-3-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-6-(3-trifluoromethyl-phenyl)-1H-pyridin-2-one (tautomers) in 10 ml of CH2Cl2 at RT. While stirring 0.24 ml=0.42 g (1.50 mmol) of trifluoromethanesulfonic anhydride were added to this suspension drop by drop which resulted in a clear solution. After 20 hours, the reaction mixture was poured into crashed ice and extracted twice with CH2Cl2; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 9:1) to give 0.21 g (37%) of the title compound as light brown amorphous solid. MS: 566.4 (MH+).

reactant | N-ethyldiisopropylamine | 2.0 mmol, 0.256 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | [2-hydroxy-4-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 1.0 mmol, 0.43 g | OC1=NC(=CC(=C1C(=O)N1CCC(CC1)N1CCCC1)C)C1=CC(=CC=C1)C(F)(F)F | C23H26F3N3O2
reactant | 4-methyl-3-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-6-(3-trifluoromethyl-phenyl)-1H-pyridin-2-one | CC1=C(C(NC(=C1)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)N1CCC(CC1)N1CCCC1 | C23H26F3N3O2
reactant | trifluoromethanesulfonic anhydride | 1.50 mmol, 0.42 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-methyl-3-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-6-(3-trifluoromethyl-phenyl)-pyridin-2-yl ester | 0.21 g, 37% | CC1=C(C(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C(=O)N1CCC(CC1)N1CCCC1 | C24H25F6N3O4S
